US04652635
Solid catechol (800 gms) was added (via a Gooch tube connected to an Erlenmeyer flask) to a 12 liter round bottom flask containing BBr3 (2 kg) in methylene chloride (3.5 liters) at -78° C. over a 6 hour period. The reaction mixture was slowly warmed to ambient temperature and stirred overnight. The solvent and excess hydrogen bromide were removed by distillation at 20 mm Hg. The residue was transferred in a minimal amount of methylene chloride to a 5 liter three neck round bottom flask and evacuated overnight at 30 mm. At this point the reaction product was very crystalline. The solid was warmed cautiously to a melt while slowly reducing the pressure. Ultimately, at a pressure of 10-15 mm an a mantle temperature of about 130° C., there was formed a colorless distillate at a head temperature of about 95° C. The liquid crystallized rapidly on cooling. The solid was transferred to Teflon bottles to yield 1.32 kg (92% yield) of 2 -bromo-1,3,2 benzodioxaborole, a colorless, fuming, pourable solid.

reactant | catechol | 800 gms | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | BBr3 | 2 kg | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 3.5 liters | C(Cl)Cl | CH2Cl2
product | 2 -bromo-1,3,2 benzodioxaborole | 1.32 kg, 92% yield | BrB1OC2=C(O1)C=CC=C2 | C6H4BBrO2
